US07498440B2
1-[3-(4-biphenylyloxy)propyl]-4-[hydroxy(diphenyl)methyl]-1-azoniabicyclo[2.2.2]octane bromide
Following the general procedure outlined in Example 3, 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol (0.0437 g, 0.144 mmol) and 4-biphenylyl 3-bromopropyl ether (0.0562 g, 0.194 mmol) in 2 CH3CN/3 CHCl3 (4.0 mL) were reacted to give the desired product (0.0655 g, 75.2%). EI-MS m/z 504(M+) Rt (2.24 min).

reactant | 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol | 0.144 mmol, 0.0437 g | N12CCC(CC1)(CC2)C(O)(C2=CC=CC=C2)C2=CC=CC=C2 | C20H23NO
reactant | 4-biphenylyl 3-bromopropyl ether | 0.194 mmol, 0.0562 g | BrCCCOC1=CC=C(C=C1)C1=CC=CC=C1 | C15H15BrO
solvent | CH3CN | 4.0 mL | CC#N | C2H3N
product | 1-[3-(4-biphenylyloxy)propyl]-4-[hydroxy(diphenyl)methyl]-1-azoniabicyclo[2.2.2]octane bromide | 0.0655 g, 75.2% | [Br-].C1(=CC=C(C=C1)OCCC[N+]12CCC(CC1)(CC2)C(C2=CC=CC=C2)(C2=CC=CC=C2)O)C2=CC=CC=C2 | InChI=1S/C35H38NO2.BrH/c37-35(31-13-6-2-7-14-31,32-15-8-3-9-16-32)34-21-25-36(26-22-34,27-23-34)24-10-28-38-33-19-17-30(18-20-33)29-11-4-1-5-12-29;/h1-9,11-20,37H,10,21-28H2;1H/q+1;/p-1
